US07566784B2
A) 1-Benzyl-1H-pyrrolo[3,2-c]pyridin-4-amine
Benzylamine (1.8 mL, 16.4 mmol, 5 eq) was added to 4-chloro-1H-pyrrolo[2,3-b]pyridine (0.50 g, 3.3 mmol, 1.0 eq; see, generally, Cheng, C.-C. et al. J. Physical Chem. 2003, 107, 1459-1471, incorporated by reference in its entirety) in a sealed tube and the reaction mixture was heated at 180° C. for 8 h. The reaction mixture was purified by loading it directly onto a C-18 YMC 30×500 mm reverse phase column (eluting 20-90% aqueous methanol with 0.1% TFA over a 30 minute gradient) and the appropriate fractions were isolated and concentrated in vacuo. The residue was neutralized with saturated aq. NaHCO3 solution and the mixture was extracted with CHCl3. The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to afford the product (0.40 g, 55%) as a solid. 1H NMR (DMSO-d6) δ 7.51-7.52 (m, 1H), 7.16-7.36 (m, 6H), 6.63-6.68 (m, 2H), 6.09 (s, 2H); MS(ESI+) m/z 224 (M+H)+. Calculated: 224.1188, found: 224.1178

reactant | Benzylamine | 16.4 mmol, 1.8 mL, 5 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
product | 1-Benzyl-1H-pyrrolo[3,2-c]pyridin-4-amine | 0.40 g, 55% | C(C1=CC=CC=C1)N1C=CC=2C(=NC=CC21)N | C14H13N3
